US05489593
Methyl 2-methyl-α-azidocinnamate
Following the general procedure of PREPARATION 61 and making non-critical variations but starting with o-tolualdehyde (5.0 g), methyl azidoacetate (19.2 g), the title compound is obtained, NMR (300 MHz, CDCl3) 7.96, 7.26-7.18, 7.13, 3.92 and 2.36 δ.

reactant | o-tolualdehyde | 5.0 g | C=1(C(=CC=CC1)C=O)C | C8H8O
reactant | methyl azidoacetate | 19.2 g | N(=[N+]=[N-])CC(=O)OC | C3H5N3O2
product | Methyl 2-methyl-α-azidocinnamate | CC1=C(C=C(C(=O)OC)N=[N+]=[N-])C=CC=C1 | C11H11N3O2
